US08440651B2
2-(1-((2-(6-amino-5-methylpyridin-3-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-4-yl)propan-2-ol 132
2-(1-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-4-yl)propan-2-ol (0.185 g) was reacted with 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine via General Procedure A to produce 90.9 mg of 132 following reverse phase HPLC purification. MS (Q1) 478.3 (M)+

reactant | 2-(1-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-4-yl)propan-2-ol | 0.185 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CN2CCC(CC2)C(C)(C)O)N2CCOCC2 | C20H28ClN5O2
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | CC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C12H19BN2O2
product | 2-(1-((2-(6-amino-5-methylpyridin-3-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidin-4-yl)propan-2-ol | NC1=C(C=C(C=N1)C=1N=C(C2=C(N1)C=CC(=N2)CN2CCC(CC2)C(C)(C)O)N2CCOCC2)C | C26H35N7O2
